US05053415
In a similar manner to Example 48(ii), but starting from ethyl 2-(2-chloro-5-methylphenoxy)-2-methylpropionate instead of ethyl 2-(2-bromo-4-methylphenoxy)-2-methylpropionate and using DMPU as solvent in place of dimethylformamide and heating for 18 hours at 200° C. there was obtained, after evaporation of the dichloromethane extracts a liquid. This was dissolved in ether (200 ml) and the solution washed with water (3×50 ml) to removed the DMPU, then dried (MgSO4) and evaporated. The residue was purified by MPLC, eluting with 10% v/v ethyl acetate in hexane to give ethyl 2-(2-cyano-5-methylphenoxy)-2-methylpropionate (38%) as a colourless oil; NMR (250 MHz, CDCl3): 1.24(3H,t J=7 Hz), 1.67(6H,s), 2.33(3H,s), 4.24(2H, q J=7 Hz), 6.60(1H,s), 6.84(1H,dm, J=8 Hz), 7.44(1H,d J=8 Hz); m/e 265 (M+NH4)+.

reactant | ethyl 2-(2-chloro-5-methylphenoxy)-2-methylpropionate | ClC1=C(OC(C(=O)OCC)(C)C)C=C(C=C1)C | C13H17ClO3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | DMPU | CN1CCCN(C1=O)C | C6H12N2O
product | ethyl 2-(2-cyano-5-methylphenoxy)-2-methylpropionate | 38% | C(#N)C1=C(OC(C(=O)OCC)(C)C)C=C(C=C1)C | C14H17NO3
